US05929067
(e) 3-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid methyl ester
A solution of 6.8 g (21 mmol) of 3-methylamino-4,4-diphenyl-butanoic acid methyl ester hydrochloride in 100 ml of methylene chloride is added to a solution of 4.2 ml (22 mmol) of 3,5-bistrifluoromethyl-benzoyl chloride in 100 ml of methylene chloride. Then, at 0° C., 6.6 ml (46 mmol) of triethylamine and 0.26 g (2.1 mmol) of 4-dimethylaminopyridine are added. After 6 hours the reaction mixture is diluted with ethyl acetate and washed twice with water and once with brine. The organic phase is dried over sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride/methanol (99:1 to 95:5). The title compound is obtained in the form of a light-yellow solid. TLC: methylene chloride/methanol (95:5) Rf =0.88; Rt (HPLC)=21.4 min; 1H-NMR (400 MHz, d6 -DMSO, 150° C.) d 7.97 (br, 1H), 7.45-7.19 (m, 12H), 5.46 (br, 1H), 4.46 (d, 1H), 3.54 (s, 3H), 2.87 (dd, 1H), 2.72 (s, 3H), 2.47 (dd, 1H); FAB-MS (M+H)+ =524.

reactant | 3-methylamino-4,4-diphenyl-butanoic acid methyl ester hydrochloride | 21 mmol, 6.8 g | Cl.COC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)NC)=O
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 22 mmol, 4.2 ml | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | triethylamine | 46 mmol, 6.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.1 mmol, 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid methyl ester | COC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C27H23F6NO3
